US07618985B2
Toluene (750 ml) and thionyl chloride (11 ml) were subsequently added to 3-(3-methoxy-4-methylphenyl)acrylic acid (20 g, 0.104 mol) at room temperature. The suspension was refluxed for 2 h while vigorously stirring to give a clear slightly yellow solution. The reaction mixture was concentrated in vacuo, then toluene added and the mixture re-concentrated in vacuo to give 3-(3-methoxy-4-methylphenyl)acryloyl chloride for use in the next step.

reactant | thionyl chloride | 11 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-methoxy-4-methylphenyl)acrylic acid | 0.104 mol, 20 g | COC=1C=C(C=CC1C)C=CC(=O)O | C11H12O3
solvent | Toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-methoxy-4-methylphenyl)acryloyl chloride | COC=1C=C(C=CC1C)C=CC(=O)Cl | C11H11ClO2
